US05374772
Sodium hydroxide hydrolysis of 3-[3-[4-(methylsulfinyl) phenoxy]propoxy]-5-(octadecyloxy)benzoic acid methyl ester as in earlier Examples gave 3-[3-[4-(methylsulfinyl)phenoxy]propoxy]-5-(octadecyloxy)benzoic acid (88% yield, mp 77°-80°).

reactant | Sodium hydroxide | [OH-].[Na+]
reactant | 3-[3-[4-(methylsulfinyl) phenoxy]propoxy]-5-(octadecyloxy)benzoic acid methyl ester | COC(C1=CC(=CC(=C1)OCCCCCCCCCCCCCCCCCC)OCCCOC1=CC=C(C=C1)S(=O)C)=O | C36H56O6S
product | 3-[3-[4-(methylsulfinyl)phenoxy]propoxy]-5-(octadecyloxy)benzoic acid | 88% yield | CS(=O)C1=CC=C(OCCCOC=2C=C(C(=O)O)C=C(C2)OCCCCCCCCCCCCCCCCCC)C=C1 | C35H54O6S
